US04448694
Bis-trimethoxysilylpropylethylene diamine (EDA)
In a manner similar to that shown in examples 1 and 2 above, 44 gms. of (CH3O)3Si(CH2)3NH(CH2)2NH2 and 40 gms. of (CH3O)3Si(CH2)3Cl were mixed together and warmed to 140° C. whereupon the reaction exothermed to 200° C. The reaction mass was heated at 140° C. for about 2 hours and then cooled and diluted using 168 gms. of CH3OH. After removal of HCl as an ethylenediamine salt, the crude product was distilled to recover a center cut boiling at 160° C. at 0.5 mm Hg, d425 =1.048, ND25 =1.4462.

reactant | (CH3O)3Si(CH2)3NH(CH2)2NH2 | [Si](OC)(OC)(OC)CCCNCCN | C8H22N2O3Si
reactant | (CH3O)3Si(CH2)3Cl | [Si](OC)(OC)(OC)CCCCl | C6H15ClO3Si
solvent | CH3OH | CO | CH4O
product | Bis-trimethoxysilylpropylethylene diamine | CO[Si](OC)(OC)C(CCNCCN)[Si](OC)(OC)OC | C11H30N2O6Si2
